US06759429B2
A solution of 3-methylquinoline (275 mg), N-bromosuccinimide (343 mg) and 2,2′-azobis(isobutyronitrile) (31.6 mg) in carbon tetrachloride (8.0 g) was heated under reflux for 2 hours. The mixture was cooled to room temperature, and the insoluble materials were removed by filtration, and thereto was added toluene, and the mixture was concentrated under reduced pressure. To the residue was added toluene (5 mL) to give a solution of 3-bromomethylquinoline in toluene. To a 60% suspension of NaH (70 mg) in THF (2 mL) was added dropwise a solution of the compound (300 mg) obtained in Reference Example 3-2 in THF (3 mL). To the solution was added the solution of 3-bromo-methylquinoline in toluene as mentioned above, and the mixture was stirred at 35° C. for one hour. Water was added to the reaction solution, and the organic layer was separated, dried, filtered and concentrated. The residue was purified by silica gel column chromatography to give the title compound (460 mg, 74%).

reactant | 3-methylquinoline | 275 mg | CC=1C=NC2=CC=CC=C2C1 | C10H9N
reactant | N-bromosuccinimide | 343 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 31.6 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 8.0 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethylquinoline | BrCC=1C=NC2=CC=CC=C2C1 | C10H8BrN
